US04638067
A mixture of 0.50 g (1.84 mmole) of 1-ethyl-6,7,8-trifluoro-4-oxo-quinoline-3-carboxylic acid, 5 ml acetonitrile, 0.28 g (1.84 mmole) 1,8-diazabicyclo[5.4.0]undec-7-ene and 0.28 g (1.94 mmole) of 2-[(3-pyrrolidinylmethyl)amino]ethanol was refluxed one hour and then stirred at room temperature overnight. The reaction was filtered and the precipitate washed with ether until dry to give 0.58 g of 1-ethyl-6,8-difluoro-1,4-dihydro-7-[3-[[(2-hydroxyethyl)amino]methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid, mp 215°-216° C.

reactant | 1-ethyl-6,7,8-trifluoro-4-oxo-quinoline-3-carboxylic acid | 1.84 mmole, 0.50 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.84 mmole, 0.28 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-[(3-pyrrolidinylmethyl)amino]ethanol | 1.94 mmole, 0.28 g | N1CC(CC1)CNCCO | C7H16N2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-[3-[[(2-hydroxyethyl)amino]methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid | 0.58 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNCCO)F)=O)C(=O)O | C19H23F2N3O4
